US04868132
4-hydroxyphenylacetone
Hydrobromic acid (48%, 250 mL) was heated to approximately 120° C. Over a period of two minutes, a 9.85 g sample of 4-methoxyphenylacetone was added dropwise. After 15 minutes, the reaction mixture was chilled to 30° C. and diluted to 500 mL with distilled water. The resulting mixture was extracted twice with 250 mL portions of diethyl ether. The combined organic extracts were washed with brine, dried over magnesium sulfate, and the solvent was removed in vacuo. The resulting oil was purified immediately by column chromatography over silica gel, using 40% ethyl acetate and 60% hexane. Appropriate fractions were pooled and solvents removed in vacuo to yield a thick yellow oil.

reactant | Hydrobromic acid | 250 mL | Br | BrH
reactant | 4-methoxyphenylacetone | COC1=CC=C(C=C1)CC(C)=O | C10H12O2
solvent | water | O | H2O
product | 4-hydroxyphenylacetone | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
